US06897208B2
2-Methylanisole (2.5 ml) in acetic acid (140 ml) and dichloromethane (150 m) was cooled to 15° C. Concentrated nitric acid (20 ml) was added slowly keeping the temperature of the reaction below 40° C. The reaction was stirred at ambient temperature for 30 minutes and cooled to 0° C. before adding fuming nitric acid (50 ml) dropwise. The reaction mixture was allowed to warm to ambient temperature slowly and stirred for a further 4 days. The reaction mixture was poured onto ice water (600 ml) and the organic layer was washed with water (2×40 ml) and saturated sodium hydrogencarbonate (2×40 ml), dried over magnesium sulfate and concentrated. The residual deep red solid was subjected to flash silica chromatography on silica eluting with isohexane/ethyl acetate (9:1) to (7:3) to yield 1-methoxy-2-methyl-4-nitrobenzene (2.70 g) as an off white solid. LC-MS (Method J): RT=3.74 minutes, 168.27 (M+H)+. (b) 5,6-Dinitro-benzo[1,3]dioxole

reactant | 2-Methylanisole | 2.5 ml | CC1=C(C=CC=C1)OC | C8H10O
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-methoxy-2-methyl-4-nitrobenzene | 2.70 g | COC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H9NO3
